US05859041
4-[5-(2-(4-Methoxybenzylamino)-pyrimidin-4-yl)-4-(3-trifluoromethylphenyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid benzyl ester
A mixture of 4-[5-(2-methylsulfonylpyrimidin-4-yl)-4-(3-trifluoromethylphenyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid benzyl ester (1.5 g, 0.00256 mole) and 4-methoxybenzylamine (3.51 g, 0.026 mole) was heated in a pressure tube at 140° C. for 10 minutes. The mixture was allowed to cool and the residue column chromatographed on silica using 5% methanol/methylene chloride to give 1.52 g of a yellow powder upon concentration in vacuo of product containing fractions.

reactant | 4-[5-(2-methylsulfonylpyrimidin-4-yl)-4-(3-trifluoromethylphenyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid benzyl ester | 0.00256 mole, 1.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1NC(=C(N1)C1=CC(=CC=C1)C(F)(F)F)C1=NC(=NC=C1)S(=O)(=O)C | C28H26F3N5O4S
reactant | 4-methoxybenzylamine | 0.026 mole, 3.51 g | COC1=CC=C(CN)C=C1 | C8H11NO
product | 4-[5-(2-(4-Methoxybenzylamino)-pyrimidin-4-yl)-4-(3-trifluoromethylphenyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid benzyl ester | 1.52 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1NC(=C(N1)C1=CC(=CC=C1)C(F)(F)F)C1=NC(=NC=C1)NCC1=CC=C(C=C1)OC | C35H33F3N6O3
